US05124324
(1-Methyl-2-piperidyl)methyl 1H-indole-3-carboxylate
To a THF solution (17 ml) of 1-methyl-2-piperidinemethanol (1.70 g, 13.2 mmol) cooled in an ice-sodium chloride bath to -5° C. was dropwise added a 1.5M hexane solution of n-BuLi (8.7 ml, 13.0 mmol) over a period of 5 min. Stirring was continued under ice-cooling for 30 min. To a mixture was then dropwise added a THF solution (5 ml) of indolecarboxylic acid chloride (1.50 g, 8.35 mmol) over a period of 5 min. After stirring at room temperature for 5 hours, a reaction solution was poured onto diluted hydrochloric acid. The organic layer was separated, and the aqueous layer was extracted with EtOAc. The combined organic layers were then adjusted with saturated aqueous NaCO3 to a pH of >10 and again extracted with EtOAc. The basic extract was washed successively with water and saturated aqueous sodium chloride, then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The pale yellow crystals thus produced were recrystallized from a chloroform-methanol mixture to give 1.20 g of the title compound as prisms. m.p. 168°-170° C.;

reactant | 1-methyl-2-piperidinemethanol | 13.2 mmol, 1.70 g | CN1C(CCCC1)CO | C7H15NO
reactant | n-BuLi | 13.0 mmol, 8.7 ml | [Li]CCCC
reactant | indolecarboxylic acid chloride | 8.35 mmol, 1.50 g | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | THF | 17 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.5M | CCCCCC | C6H14
product | (1-Methyl-2-piperidyl)methyl 1H-indole-3-carboxylate | 1.20 g | N1C=C(C2=CC=CC=C12)C(=O)OCC1N(CCCC1)C | C16H20N2O2
